US08461328B2
Acetic acid 3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexyl ester
To a solution of Trans (racemic) 3-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanol (8.84 g, 21.2 mmol) dissolved in DCM (5 ml) was added N,N-diisopropylethylamine (3.88 ml, 22.28 mmol), followed by 4-Dimethylamino pyridine (420.3 mg, 3.44 mmol) at room temperature. To this was added Acetyl chloride (6.04 ml, 84.90 mmol) dropwise with stirring at room temperature. The mixture was stirred for 4 hours at room temperature and concentrated under reduced pressure to give an oil, which was used, as is, for the next step. LCMS (Method M, ESI): RT=3.07 min, m+H=459.3.

reactant | Trans (racemic) 3-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanol | 21.2 mmol, 8.84 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2N[C@@H]2C[C@H](CCC2)O)[N+](=O)[O-] | C19H20N4O5S
reactant | N,N-diisopropylethylamine | 22.28 mmol, 3.88 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Acetyl chloride | 84.90 mmol, 6.04 ml | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-Dimethylamino pyridine | 3.44 mmol, 420.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Acetic acid 3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexyl ester | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CC(CCC2)OC(C)=O)[N+](=O)[O-] | C21H22N4O6S
